US09233968B1
A solution of 4-ethynylaniline (1.308 g, 11.18 mmol, 1 eq) and m-tolyl isocyanate (1.684 mL, 1.2 eq) in anhydrous THF (20 mL) was stirred under nitrogen atmosphere at room temperature for three hours. The yellow solution was diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The clear solution was decanted, concentrated under reduced pressure to a lesser amount, and an off-white solid was obtained upon filtration. This solid was subject to a gradient column chromatography (EtOAc-Hex 1:100 to 1:4) followed by another column chromatography (from DCM to MeOH-DCM 1:10). 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea was obtained as an off-white powder in amount of 2.134 g.

reactant | 4-ethynylaniline | 11.18 mmol, 1.308 g, 1 eq | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | m-tolyl isocyanate | 1.684 mL, 1.2 eq | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea | C(#C)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C | C16H14N2O
